US06589950B1
a. Meta-morpholino nitrobenzene
Using 1-fluoro-3-nitrobenzene (10 g, 0.07M) and morpholine (33.5 g, 0.38M) in DMSO (116 ml) is prepared using the method described by Brown G. R. et al., Tet. Lett. 40 (1999) 1219-1222. Filtration of the precipitated product yields the product; mp 113.8-115.5° C.

reactant | 1-fluoro-3-nitrobenzene | 0.07M, 10 g | FC1=CC(=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | morpholine | 0.38M, 33.5 g | N1CCOCC1 | C4H9NO
solvent | DMSO | 116 ml | CS(=O)C | C2H6OS
product | Meta-morpholino nitrobenzene | O1CCN(CC1)C=1C=C(C=CC1)[N+](=O)[O-] | C10H12N2O3
